US06093718
The 1-(4-chlorophenylsulphonyl)homopiperazine was prepared as follows. 4-Chlorophenylsulphonyl chloride (3.74 g) in dichloromethane (100 ml) was added slowly to a solution of homopiperazine (6.73 g) in dichloromethane (100 ml). The reaction was stood at room temperature overnight. The reaction was washed with water, dried (MgSO4) and the solvent removed in vacuo. The residue was triturated with 20% ether in hexane to give 1-(4-chlorophenylsulphonyl)homopiperazine (3.71 g); NMR (DMSOd6): 1.65 (m, 2H), 2.73 (m, 4H), 3.2-3.65 (m 4H), 7.7 (m, 2H), 7.8 (m, 2H).

reactant | 4-Chlorophenylsulphonyl chloride | 3.74 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | homopiperazine | 6.73 g | N1CCNCCC1 | C5H12N2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-(4-chlorophenylsulphonyl)homopiperazine | 3.71 g | ClC1=CC=C(C=C1)S(=O)(=O)N1CCNCCC1 | C11H15ClN2O2S
